US08431596B2
[4-((S)-2-Amino-propoxy)-phenyl]-[5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine (XX-143)
((S)-2-{4-[5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenoxy}-propyl)-carbamic acid tert-butyl ester (100 mg, 0.196 mmol) was dissolved in dichloromethane (4 ml) and MP-TsOH (1 g, 3.23 mmol) added. The mixture was shaken overnight at room temperature. The resin was collected by filtration and washed with methanol. The product was then cleaved from the resin with 2M ammonia in methanol. The eluant was concentrated in vacuo and the product was purified by prep LCMS.

reactant | ((S)-2-{4-[5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenoxy}-propyl)-carbamic acid tert-butyl ester | 0.196 mmol, 100 mg | C(C)(C)(C)OC(NC[C@H](C)OC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C2=CC3=C(OCCO3)C=C2)=N1)=O | C28H31N5O5
reactant | TsOH | 3.23 mmol, 1 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | [4-((S)-2-Amino-propoxy)-phenyl]-[5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | N[C@H](COC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C2=CC3=C(OCCO3)C=C2)=N1)C | C23H23N5O3
